US07112598B2
3-Acetyl-6-chloro-2-[2-(3-(N-isopropyl-(N-(2-methoxymethyloxy-ethyl))amino)propoxy)-5-methoxyphenyl]benzothiazoline (Compound No. 20-1)
N,N-Diisopropylethylamine (0.18 ml, 1.01 mmol) and chlorodimethyl ether (0.05 ml, 0.55 mmol) were added to a solution of 3-acetyl-6-chloro-2-[2-(3-(N-(2-hydroxyethyl)-N-isopropylamino)-propoxy)-5-methoxyphenyl]benzothiazoline hydrochloride (235 mg, 0.46 mmol) in methylene chloride (2.0 ml) under ice-cooling. The mixture was stirred at room temperature for 3.5 hours, then a saturated aqueous sodium hydrogencarbonate solution (50 ml) was added to the reaction mixture, and the whole was extracted with ethyl acetate (50 ml). The ethyl acetate layer was washed with saturated brine (50 ml) and dehydrated with anhydrous magnesium sulfate, and ethyl acetate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (mobile phase: chloroform/methanol=20/1) to give 124 mg (52%) of the target compound.

reactant | N,N-Diisopropylethylamine | 1.01 mmol, 0.18 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | chlorodimethyl ether | 0.55 mmol, 0.05 ml | COCCl | C2H5ClO
reactant | 3-acetyl-6-chloro-2-[2-(3-(N-(2-hydroxyethyl)-N-isopropylamino)-propoxy)-5-methoxyphenyl]benzothiazoline hydrochloride | 0.46 mmol, 235 mg | Cl.C(C)(=O)N1C(SC2=C1C=CC(=C2)Cl)C2=C(C=CC(=C2)OC)OCCCN(C(C)C)CCO
reactant | sodium hydrogencarbonate | 50 ml | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 2.0 ml | C(Cl)Cl | CH2Cl2
product | 3-Acetyl-6-chloro-2-[2-(3-(N-isopropyl-(N-(2-methoxymethyloxy-ethyl))amino)propoxy)-5-methoxyphenyl]benzothiazoline | 124 mg, 52% | C(C)(=O)N1C(SC2=C1C=CC(=C2)Cl)C2=C(C=CC(=C2)OC)OCCCN(CCOCOC)C(C)C | C26H35ClN2O5S
